Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:5]=[O:6])[H:11])([H:8])([H:9])[H:10].[C:3](#[N:4])[C:7]([H:12])([H:13])[H:14]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],68.86039836672981
[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]=[O:3])([H:6])[H:8].[C:4]=[N:5][H:7],64.8817533794474
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([c:3]1[c:2]([H:11])[c:5]([C:7]([H:12])([H:13])[H:14])[o:6][n:4]1)([H:8])([H:9])[H:10],78.1996605489543
[C:1]([C@@:2]1([H:11])[O:3][C-:4]=[O+:5][C:6]1=[C:7]([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],75.72134171298148
[O:1]([O:6][C@@:5]1([H:13])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[N:4]1[H:12])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],49.412991258070704
[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[C:3](=[O:4])([C:5]#[C:6][C:7]([H:13])([H:14])[H:15])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],51.65424441379269
[O:1]=[C:2]([C:3]1([H:7])[N:4]=[N:5]1)[H:6]>>[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6],21.354283524405997
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:17],71.5865164628318
[N:1](=[C:2]1[N:3][N:4]([H:9])[C:5]([H:8])([H:10])[N:6]1)[H:7]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],58.3528795846804
[C:1]([O:2][C:3]([O-:4])=[C+:5][H:11])([H:8])([H:9])[H:10].[C:6]([O:7][H:15])([H:12])([H:13])[H:14]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],0.9683579456595908
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9]>>[N:1]([C@:3]1([H:10])[C-:2]=[C:7]([H:13])[C+:5]([O:6][H:12])[N:4]1[H:11])([H:8])[H:9],77.7301545062477
[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3]([O:4][H:12])=[C:5](/[O:6][H:10])[H:11])([H:7])([H:8])[H:9],66.3837352596994
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10].[N:2]#[C:3][N:4]([H:11])[H:12],108.56212997714199
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[C:5][C:6]1([H:7])[H:14],71.84834500341829
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2](=[N+:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11],72.8127436176716
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C+:3]=[C:4]=[N-:5])[H:11])([H:8])([H:9])[H:10].[C:6]=[N:7][H:12],47.2034496558114
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]/[H:13])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14],98.0067306508144
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[C@:2]12([H:10])[C@:3]([C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]2[H:13].[O:1]([H:8])[H:9],97.1388105113459
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C@@:3]([O:4][H:8])([N:7]=[C:6]=[C:5]([H:10])[H:11])[H:9],72.3187963416646
[N:1](=[C:2](\[C+:7]=[C:6]([O-:5])[H:9])[H:10])\[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],3.1047005295051946
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C@@:3]([C:4]#[N:5])([H:11])[C:6]1=[C:7]([H:10])[H:12])[H:8],67.3846796334658
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:15])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4](=[N:5][O:6][H:13])[C:7]1([H:14])[H:16],76.4240202367784
[C-:2](=[N+:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])[H:11].[C:1]([H:8])([H:9])([H:10])[H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],14.503696078355297
[N:1]([C:2]1=[C:3]([H:10])[N:7]1/[C:5](=[N:4]/[H:11])[O:6][H:12])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],6.514650531886801
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2])[H:8].[O:3]=[C:4]([O:5][C:6](=[O:7])[H:10])[H:9],36.2755286613123
[C:1]([C:5]([C:4]([C:2]#[O+:3])([H:10])[H:11])=[C-:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],28.838081143233303
